US04600429
Chloromethanephosphonic acid (7.0 g, 53.6 mmoles) and 1,4-diaminobutane (30.0 g, 340 mmoles) were heated under reflux in water (200 cm3) for 20 hours. The water was then distilled off and acetone (110 cm3) was added. The phosphonic acid was filtered off and dried. The crude yield was 9.8 g (91%). A sample was purified by recrystallization from water/ethanol to give N-(4-aminobutyl)-aminomethanephosphonic acid monohydrate as a fine white crystalline solid having a melting point of 258° C.

reactant | Chloromethanephosphonic acid | 53.6 mmoles, 7.0 g | ClCP(O)(=O)O | CH4ClO3P
reactant | 1,4-diaminobutane | 340 mmoles, 30.0 g | NCCCCN | C4H12N2
solvent | water | 200 cm3 | O | H2O
product | N-(4-aminobutyl)-aminomethanephosphonic acid monohydrate | O.NCCCCNCP(O)(=O)O | InChI=1S/C5H15N2O3P.H2O/c6-3-1-2-4-7-5-11(8,9)10;/h7H,1-6H2,(H2,8,9,10);1H2
